* BFQ17 SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT89 DIE MODEL : BFW16A
* 1: COLLECTOR; 2: BASE; 3: EMITTER
.SUBCKT BFQ17 1 2 3
Q1 6 5 7 7 BFW16A
* SOT89 parasitic model
               Lb  4 5 1.2n 
               Le  7 8 1.2n
               L1  2 4 1n
               L2  1 6 .01n
               L3  3 8 1n
              Ccb  4 6 150f
              Cbe  4 8 16f
*
* PHILIPS SEMICONDUCTORS                                        Version:    3.0
* Filename:   BFW16A.PRM                                        Date:March 1993
*
.MODEL  BFW16A   NPN
+              IS = 2.38723E-015
+              BF = 8.60000E+001
+              NF = 9.92505E-001
+             VAF = 4.80000E+001
+             IKF = 8.00000E-001
+             ISE = 5.46670E-011
+              NE = 2.15243E+000
+              BR = 8.00000E+000
+              NR = 9.86531E-001
+             VAR = 1.00990E+001
+             IKR = 7.53676E-002
+             ISC = 9.71537E-015
+              NC = 1.17989E+000
+              RB = 2.00000E+000
+             IRB = 1.00000E-006
+             RBM = 2.00000E+000
+              RE = 5.00000E-002
+              RC = 7.65100E-001
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 8.13827E-012
+             VJE = 6.00000E-001
+             MJE = 2.72002E-001
+              TF = 8.77730E-011
+             XTF = 2.43638E+000
+             VTF = 6.41428E-001
+             ITF = 1.77271E-001
+             PTF = 1.00000E+001
+             CJC = 5.37854E-012
+             VJC = 5.68500E-001
.ENDS

